US04891375
4-(4-(2-(4-(8-Quinolyl)piperazinyl)ethyl)phenyl)-2-aminothiazole
To a 35 ml round-bottomed flask equipped with condenser and N2 inlet were added 0.746 g (2.34 mmol) of 4-(4-(2-chloroethyl)phenyl-2-aminothiazole hydrobromide, 0.50 g (2.34 mmol) of N-(8-quinolyl)piperazine (prepared from 8-aminoquinoline by reaction with diethanolamine in hydrobromide at 200° C.), 0.621 g (5.86 mmol) of sodium carbonate, 50 mg of sodium iodide, and 10 ml of ethanol. The reaction was heated at reflux for 25 hours, cooled, and the reaction mixture taken up in ethyl acetate/water. The layers were separated, the ethyl acetate layer dried and evaporated. The residue was chromatographed on silica gel using chloroform/methanol as eluent and the product fractions combined in methanol and precipitated with a solution of hydrochloride in ether. The precipitate was stirred with ether/methanol to afford a crystalline solid, m.p. >225° C., 277 mg (27%). NMR (free base in CDCl3): 2.8 (m, 8H), 3.5 (m, 4H), 7.0-8.2 (m, 11H).

reactant | 4-(2-chloroethyl)phenyl-2-aminothiazole hydrobromide | Br.ClCCC1=CC=C(C=C1)C=1N=C(SC1)N
reactant | N-(8-quinolyl)piperazine | 2.34 mmol, 0.50 g | N1=CC=CC2=CC=CC(=C12)N1CCNCC1 | C13H15N3
reactant | sodium carbonate | 5.86 mmol, 0.621 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 50 mg | [I-].[Na+]
solvent | ethyl acetate water | C(C)(=O)OCC.O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(4-(2-(4-(8-Quinolyl)piperazinyl)ethyl)phenyl)-2-aminothiazole | N1=CC=CC2=CC=CC(=C12)N1CCN(CC1)CCC1=CC=C(C=C1)C=1N=C(SC1)N | C24H25N5S
